US09314468B2
To a stirred solution of ethyl-9H-pyrido[3,4-b]indole-1-carboxylate, 1, (1.26 g, 5.24 mmol) in CH2Cl2 (50 mL) was added a DIBAL-H solution (1.0 M in toluene; 36.0 mL, 36.71 mmol) at −50° C. The mixture was stirred at −50° C. for 10 min and quenched by sequential addition of methanol (14.0 mL) and 10% NaOH (10 mL) at −50° C. Then the mixture was stirred at ambient temperature for an additional 1 h. The precipitates were removed by filtration through Celite and washed with CHCl3-methanol (10:1). The combined filtrates were washed with brine, dried over sodium sulfate and concentrated under reduced pressure. The product was purified by chromatography on silica gel (2-20% methanol/CH2Cl2) to afford 0.46 g (45% yield) of β-carboline-1-carbaldehyde, 2: 1H NMR (400 MHz, CDCl3) δ 10.33 (s, 1H), 10.04 (bs, 1H), 8.63 (d, J=5.2 Hz, 1H), 8.18-8.15 (m, 2H), 7.64-7.57 (m, 2H), 7.35 (dt, J=1.6, 7.6 Hz, 1H); ESI+ MS: m/z (rel intensity) 197.0 (100, [M+H]+).

reactant | ethyl-9H-pyrido[3,4-b]indole-1-carboxylate | C(C)OC(=O)C1=NC=CC2=C1NC1=CC=CC=C21 | C14H12N2O2
reactant | DIBAL-H | 36.71 mmol, 1.0 M, 36.0 mL | CC(C)C[AlH]CC(C)C
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | β-carboline-1-carbaldehyde | 0.46 g, 45% yield | C1(=NC=CC=2C3=CC=CC=C3NC12)C=O | C12H8N2O
